US07723367B2
3-(5-Chloro-pyridin-2-yloxy)-benzonitrile
3-Hydroxy-benzonitrile was reacted with 2,5-dichloro-pyridine according to the method of Example 78A to provide the title compound. MS (DCI/NH3) m/z 231 (M)+, 233 (M+2)+.

reactant | 3-Hydroxy-benzonitrile | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | 2,5-dichloro-pyridine | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
product | 3-(5-Chloro-pyridin-2-yloxy)-benzonitrile | ClC=1C=CC(=NC1)OC=1C=C(C#N)C=CC1 | C12H7ClN2O
